US08119655B2
Compound 36: 5-chloro-1-(4-methoxybenzyl)-3-(5-methyl-3-((trimethylsilyl)ethynyl)pyridin-2-ylamino)pyrazin-2(1 H)-one
In a 1 L round bottom combined 3-(3-bromo-5-methylpyridin-2-ylamino)-5-chloro-1-(4-methoxybenzyl)pyrazin-2(1H)-one (51.90 g, 119.12 mmol), triphenylphosphine (1.56 g, 5.96 mmol), (Ph3P)PdCl2 (4.18 g, 5.96 mmol) and suspended in anhydrous THF (450 mL). Triethylamine (18.08 g, 178.68 mmol) and trimethylsilyl acetylene (35.10 g, 357.36 mmol) were added next and mixture was stirred at ambient temperature, under N2 for 10 minutes. Copper iodide (catalytic) was added last and reaction was stirred at ambient temperature. Reaction was monitored by analytical LCMS at one hour intervals and CuI was added until reaction is complete. The completed reaction was concentrated in vacuo, taken up with ethyl acetate (700 mL) and brine (300 mL) and filtered off undissolved solids before taking on to extraction. The organic layer was washed with additional brine (4×300 mL), dried with MgSO4, filtered and concentrated in vacuo. Chromatography on silica gel plug with ethyl acetate/hexanes (1/9), two attempts, afforded the desired product (43.36 g. 81% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 0.11 (s, 9 H) 2.26 (s, 3 H) 3.73 (s, 3 H) 5.00 (s, 2 H) 6.91 (d, J=8.59 Hz, 2 H) 7.38 (d, J=8.59 Hz, 2 H) 7.45 (s, 1 H) 7.74 (d, J=2.27 Hz, 1 H) 8.25 (d, J=2.27 Hz, 1 H) 9.51 (s, 1 H). ESI-MS: m/z 453.3 (M+H)+.

reactant | 3-(3-bromo-5-methylpyridin-2-ylamino)-5-chloro-1-(4-methoxybenzyl)pyrazin-2(1H)-one | 119.12 mmol, 1 L, 51.90 g | BrC=1C(=NC=C(C1)C)NC=1C(N(C=C(N1)Cl)CC1=CC=C(C=C1)OC)=O | C18H16BrClN4O2
reactant | Triethylamine | 178.68 mmol, 18.08 g | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl acetylene | 357.36 mmol, 35.10 g | C[Si](C)(C)C#C | C5H10Si
solvent | THF | 450 mL | C1CCOC1 | C4H8O
catalyst | Copper iodide | [Cu](I)I
catalyst | CuI | [Cu]I
catalyst | triphenylphosphine | 5.96 mmol, 1.56 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 5-chloro-1-(4-methoxybenzyl)-3-(5-methyl-3-((trimethylsilyl)ethynyl)pyridin-2-ylamino)pyrazin-2(1 H)-one | 43.36 g, 81% yield | ClC=1N=C(C(N(C1)CC1=CC=C(C=C1)OC)=O)NC1=NC=C(C=C1C#C[Si](C)(C)C)C | C23H25ClN4O2Si
